US04447435
8-Chloro-4-hydroxyquinoline was reacted with formaldehyde in aqueous sodium hydroxide to give the novel compound 8-chloro-4-hydroxy-3-hydroxymethylquinoline, m.p.>300° (from methanol).

reactant | 8-Chloro-4-hydroxyquinoline | ClC=1C=CC=C2C(=CC=NC12)O | C9H6ClNO
reactant | formaldehyde | C=O | CH2O
reactant | methanol | CO | CH4O
solvent | sodium hydroxide | [OH-].[Na+]
product | 8-chloro-4-hydroxy-3-hydroxymethylquinoline | ClC=1C=CC=C2C(=C(C=NC12)CO)O | C10H8ClNO2
